US05140026
4-[N-[2-(4-Morpholinyl)ethyl]-S-(4-aminophenyl)sulfonimidoyl]butanol
A solution of N-[2-(4-morpholinyl)ethyl]-S-(4-nitrophenyl)-S-[4-(phenylmethoxy)butyl]sulfoximine in ethanol is treated under nitrogen with 5% palladium on carbon catalyst and the mixture is subjected to catalytic hydrogenation on a Parr apparatus at 70° C. When hydrogen uptake ceases, the catalyst is removed by filtration and the filtrate concentrated to obtain the title compound.

reactant | N-[2-(4-morpholinyl)ethyl]-S-(4-nitrophenyl)-S-[4-(phenylmethoxy)butyl]sulfoximine | N1(CCOCC1)CCN=S(=O)(CCCCOCC1=CC=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C23H31N3O5S
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-[N-[2-(4-Morpholinyl)ethyl]-S-(4-aminophenyl)sulfonimidoyl]butanol | N1(CCOCC1)CCN=S(=O)(C1=CC=C(C=C1)N)CCCCO | C16H27N3O3S
